US05376681
4-Formylamino-2,3,5-trimethyl-1-(2-methyl-2-propenyloxy)benzene
Potassium carbonate (74.0 g, 0.54 mol) was added to a solution of 4-formylamino-2,3,5-trimethylphenol (85.5 g, 0.48 mol) and methallyl chloride (45.3 g, 0.5 mol) in dimethylformamide (300 ml) and the mixture was stirred at 80° C. for 3 hours under an argon atmosphere. The reaction mixture was poured into ice-cold water. Crystals precipitated were filtered, washed with water and dried. The crude crystals obtained were recrystallized from isopropyl ether to obtain the desired compound (80.0 g, yield: 71.6% ), m.p. 144°-145° C.

reactant | Potassium carbonate | 0.54 mol, 74.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-formylamino-2,3,5-trimethylphenol | 0.48 mol, 85.5 g | C(=O)NC1=C(C(=C(C=C1C)O)C)C | C10H13NO2
reactant | methallyl chloride | 0.5 mol, 45.3 g | C(C(C)=C)Cl | C4H7Cl
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 4-Formylamino-2,3,5-trimethyl-1-(2-methyl-2-propenyloxy)benzene | 80.0 g, yield: 71.6% | C(=O)NC1=C(C(=C(C=C1C)OCC(=C)C)C)C | C14H19NO2
